US04957930
4-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]-methoxy}-1-hydroxy-1-phenylbut-2-yne
A 1.6M solution of n-butyllithium in hexane (3.4 ml) was added dropwise over 15 minutes to a stirred, cooled (acetone/cardice bath) solution of 1-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}prop-2-yne (1.10 g) in tetrahydrofuran (25 ml) and the mixture stirred at -70° for 2 hours. The mixture was then allowed to warm up to between -35° and -40°, stirred at that temperature for 2 hours, treated dropwise with a solution of benzaldehyde (0.16 g) in tetrahydrofuran (5 ml) over 5 minutes and then stirred at between -10° and -15° for one hour and at room temperature for 14 hours. The reaction mixture was partitioned between ethyl acetate and water and the organic layer washed with water, dried over Na2SO4 and evaporated. The residue was triturated with diethyl ether and the resulting solid collected, washed with diethyl ether and dried to give the title compound (0.18 g), m.p. 160°-164°.

reactant | n-butyllithium | C(CCC)[Li]
reactant | acetone cardice | CC(=O)C.C(=O)=O
reactant | 1-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}prop-2-yne | 1.10 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC#C)C(=O)OCC | C21H21Cl2NO5
reactant | benzaldehyde | 0.16 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | hexane | 3.4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]-methoxy}-1-hydroxy-1-phenylbut-2-yne | 0.18 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC#CC(C1=CC=CC=C1)O)C(=O)OCC | C28H27Cl2NO6
